US05629423
Next, acetic anhydride (23.6 ml, 0.25 mole) and sulfuric acid (0.13 ml) were added to stirred 5-(R)-hydroxy-1-benzyloxy-2-hexyne (34 g, 0.17 mole), prepared above, at 25° C., and the reaction was heated to 60° C. for 20 hours. Water (100 ml) was added, followed by solid sodium bicarbonate (33 g, 0.40 mole) in portions. The reaction mixture was extracted with ethyl acetate (80 ml), the solvent dried (magnesium sulfate) and evaporated to afford 5-(R)-acetoxy-1-benzyloxy-2-hexyne (41.1 g, 99% yield) as a brown oil.

reactant | acetic anhydride | 0.25 mole, 23.6 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | sulfuric acid | 0.13 ml | S(O)(O)(=O)=O | H2O4S
reactant | 5-(R)-hydroxy-1-benzyloxy-2-hexyne | 0.17 mole, 34 g | O[C@@H](CC#CCOCC1=CC=CC=C1)C | C13H16O2
reactant | sodium bicarbonate | 0.40 mole, 33 g | C([O-])(O)=O.[Na+]
solvent | Water | 100 ml | O | H2O
product | 5-(R)-acetoxy-1-benzyloxy-2-hexyne | 41.1 g, 99% yield | C(C)(=O)O[C@@H](CC#CCOCC1=CC=CC=C1)C | C15H18O3
